US07511145B2
Saponification proceeded with dissolving 26.5 g (0.1 mol) 4-oxo-2-phenyl-1,4-dihydro-quinoline-6-carboxylic acid ethyl ester in ethanol (100 mL), adding 10 eq. of 1N NaOH solution and stirring at 40° C. for 4 hr. The ethanol was evaporated, water was added and acidified, and the precipitate filtered. The white product was dried over P2O5 to give quantitative amounts of 4-oxo-2-phenyl-1,4-dihydro-quinoline-6-carboxylic acid.

reactant | 4-oxo-2-phenyl-1,4-dihydro-quinoline-6-carboxylic acid ethyl ester | 0.1 mol, 26.5 g | C(C)OC(=O)C=1C=C2C(C=C(NC2=CC1)C1=CC=CC=C1)=O | C18H15NO3
reactant | NaOH | 1N, 10 eq. | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-oxo-2-phenyl-1,4-dihydro-quinoline-6-carboxylic acid | O=C1C=C(NC2=CC=C(C=C12)C(=O)O)C1=CC=CC=C1 | C16H11NO3
